US05008267
(1) Preparation of 3-(4-nitrophenylthio)propyl bromide (compound 52)
To 50 ml of a 2-butanone solution containing 5.5 g of 4-nitrothiophenol and 28.3 g of 1,3-dibromopropane was added 9.0 g of anhydrous potassium carbonate, and the solution was then stirred for 30 minutes at room temperature.

reactant | 4-nitrothiophenol | 5.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | 1,3-dibromopropane | 28.3 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 9.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | 3-(4-nitrophenylthio)propyl bromide | [N+](=O)([O-])C1=CC=C(C=C1)SCCCBr | C9H10BrNO2S
